US06713499B2
To a stirred solution of 2.50 g (10.4 mmol) (2-methoxy-ethyl)-(4-methoxy-3-nitro-phenyl)-methyl-amine in 100 ml methanol was added a spatula end of 10% palladium on charcoal and the mixture was then stirred for 16 hours at room temperature under an atmosphere of hydrogen. The mixture was then filtered and the filtrate concentrated in vacuo to afford 1.90 g (87 (ho) 4-methoxy-N1-(2-methoxy-ethyl)-N1-methyl-benzene-1,3-diamine as an off-white crystalline solid. ES-MS m/e (%): 211 (M+H+, 100).

reactant | (2-methoxy-ethyl)-(4-methoxy-3-nitro-phenyl)-methyl-amine | 10.4 mmol, 2.50 g | COCCN(C)C1=CC(=C(C=C1)OC)[N+](=O)[O-] | C11H16N2O4
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 4-methoxy-N1-(2-methoxy-ethyl)-N1-methyl-benzene-1,3-diamine | COC1=C(C=C(C=C1)N(C)CCOC)N | C11H18N2O2
